US06924284B2
A suspension of 3-tert-butyloxycarbonylamino-N-(3-carbomethoxypropionyloxy) benzamidine (8.25 g, 22.6 mmol) in toluene (120 mL) was added to a 250-mL round bottomed flask equipped with a magnetic stirrer and a reflux condenser, and the contents heated to reflux for 5 h. The reaction was then cooled, and the resulting solution concentrated under vacuum. This afforded a quantitative yield of methyl 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionate as a yellow solid. m.p. 90-91° C.; 1H NMR (CDCl3) δ (ppm) 7.97 (s, 1H), 7.72 (d, 1H,J=7.6 Hz), 7.61 (d, 1H,J=7.6 Hz), 7.39 (m, 2H), 6.57 (bs, 1H), 3.73 (s, 3H), 3.26 (t, 2H,J=7.3 Hz), 2.94 (t, 2H,J=7.3 Hz), 1.53 (s, 9H); m/z=346 (M−H).

reactant | 3-tert-butyloxycarbonylamino-N-(3-carbomethoxypropionyloxy) benzamidine | 22.6 mmol, 8.25 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=N)NOC(CCC(=O)OC)=O)C=CC1 | C17H23N3O6
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-[3-(3-tert-butyloxycarbonylaminophenyl)-1,2,4-oxadiazol-5-yl]propionate | quantitative yield | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)C1=NOC(=N1)CCC(=O)OC | C17H21N3O5
